US04352817
4.84 g (0.02 mol) of 6-bromoisatoic acid anhydride and 1.78 g (0.02 mol) of sarcosine are finely rubbed together and subsequently heated to 260° under a protective gas for 6 minutes. After cooling, the crude product is chromatographed on silica gel using chloroform/methanol (20:1) for the elution. After recrystallization from chloforom/hexane, there is obtained 6-bromo-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 232°-233°.

reactant | 6-bromoisatoic acid anhydride | 0.02 mol, 4.84 g | BrC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4BrNO3
reactant | sarcosine | 0.02 mol, 1.78 g | N(C)CC(=O)O | C3H7NO2
product | 6-bromo-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | BrC1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C10H9BrN2O2
